US04933114
(2) Tricosa-10,12-diynoic acid
10-Undecynoic acid (21.8 g, 0.120 mol) was neutralized with a solution of 57 mL 10 percent KOH in water and hydroxylamine hydrochloride (0.380 g) was added. Then a catalyst consisting of a solution of 1.9 g cuprous chloride in 16 g 70 percent aqueous ethylamine was added. A yellow precipitate formed immediately. A solution of the crude 1-iodo-1-dodecyne in 40 mL methanol was then added dropwise with stirring. The suspension was stirred for one hour after the addition. The reaction mixture was acidified by the addition of 2.5N HCl, filtered, and the filtrate and precipitate washed with ether. The ether layers were washed with water, thiosulfate solution, water and saturated sodium chloride. After drying Na2SO4) the solvents were removed under reduced pressure. The residue was induced to crystallize by scratching under petroleum ether. The crystals of the diyne acid (26.4 g, 74%) exhibited m.p. 57°-58° after recrystallization from acetonitrile.

reactant | 10-Undecynoic acid | 0.120 mol, 21.8 g | C(CCCCCCCCC#C)(=O)O | C11H18O2
reactant | KOH | 57 mL | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 0.380 g | Cl.NO
reactant | 1-iodo-1-dodecyne | IC#CCCCCCCCCCC | C12H21I
reactant | HCl | 2.5N | Cl | ClH
solvent | water | O | H2O
solvent | ethylamine | 16 g | C(C)N | C2H7N
solvent | methanol | 40 mL | CO | CH4O
product | Tricosa-10,12-diynoic acid | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)O | C23H38O2
